US07829497B2
Synthesis of N-octylaniline
To N-acetyl-N-octylaniline (48.4 g, 196 mmol) there was added 4N hydrochloric acid (100 mL) and the mixture heated to 100-110° C. and stirred at this temperature for 4 days. The reaction mixture was cooled to ambient temperature, diluted with water (100 mL), and hexanes (200 mL). The pH of the reaction mixture was brought to pH 14 by addition of 45% potassium hydroxide with cooling by an ice bath. The layers were separated and the aqueous layer washed with hexanes (100 mL). The combined organic layers were dried over sodium sulfate and concentrated by rotary evaporation to give the desired product as a light brown oil (40 g, 195 mmol, 99%). The product was identified by NMR spectroscopy and mass spectrometry and in general was used without further purification. Analytically pure product was obtained by distillation at reduced pressure: bp 145-150° C. (0.5 mm).

reactant | N-acetyl-N-octylaniline | 196 mmol, 48.4 g | C(C)(=O)N(C1=CC=CC=C1)CCCCCCCC | C16H25NO
reactant | hydrochloric acid | 4N, 100 mL | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 100 mL | O | H2O
product | N-octylaniline | 195 mmol, 40 g, 99% | C(CCCCCCC)NC1=CC=CC=C1 | C14H23N
